** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/transmission_gate/testbenches/xschem/res_tb_tran.sch
**.subckt res_tb_tran
VDD VDD GND {VDD}
VS vsweep GND PWL(0 -3.3 10m VDD)
Vmeas vd net1 0
.save i(vmeas)
E2 vd GND VOL=' {Vcm}+V(vsweep)/2 '
E3 vb GND VOL=' {Vcm}-V(vsweep)/2 '
vc vc_p GND 0
x1 VDD vc_p net1 vb GND transmission_gate
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt



* .include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param Vcm=VDD/2
.csparam Vcm=Vcm
.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.control
let vcc = 0.0

save all
set appendwrite

* DC Sweep
tran 10u 10m
remzerovec
end
write res_tb_tran.raw
set appendwrite

* Plotting
plot v(vsweep)
plot i(Vmeas)

*quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  transmission_gate.sym # of pins=5
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/transmission_gate/schematic/xschem/transmission_gate.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/transmission_gate/schematic/xschem/transmission_gate.sch
.subckt transmission_gate VDD vctrl vin vout VSS
*.iopin vin
*.iopin VDD
*.iopin VSS
*.iopin vout
*.ipin vctrl
XMdummy1 VSS VSS VSS VSS sg13_lv_nmos w=2.0u l=1.0u ng=2 m=1 mm_ok=1
XMdummy2 VDD VDD VDD VDD sg13_lv_pmos w=12.0u l=1.0u ng=2 m=1 mm_ok=1
XM1 net1 vctrl VSS VSS sg13_lv_nmos w=20.0u l=1.0u ng=20 m=1 mm_ok=1
XM2 net1 vctrl VDD VDD sg13_lv_pmos w=120.0u l=1.0u ng=20 m=1 mm_ok=1
XM3 vout vctrl vin VSS sg13_hv_nmos w=16u l=2u ng=16 m=1 mm_ok=1
XM4 vout net1 vin VDD sg13_hv_pmos w=48u l=2u ng=16 m=1 mm_ok=1
XM5 vout vout vout VDD sg13_hv_pmos w=6u l=2u ng=2 m=1 mm_ok=1
XM6 vout vout vout VSS sg13_hv_nmos w=2u l=2u ng=2 m=1 mm_ok=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
