** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/testbenches/xschem/res_tb_linearity.sch
**.subckt res_tb_linearity
VDD VDD GND {VDD}
VS vsweep GND PWL(0 -1 10m 1)
Vmeas vd net1 0
.save i(vmeas)
E2 vd GND VOL=' {Vcm}+V(vsweep)/2 '
E3 vb GND VOL=' {Vcm}-V(vsweep)/2 '
vc vc_p GND 0
x1 vc_p net2 net3 net1 transmission_gate
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt



* .include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param Vcm=VDD/2
.csparam Vcm=Vcm
.param v1=0
.csparam v1=v1
.param v2=0
.csparam v2=v2
.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15
.control
let vcc = 0.0

save all
set appendwrite



repeat 5
  alter vc $&vcc

  * DC Sweep
  dc VS -3.3 3.3 10m
  remzerovec
  let vcc = vcc + 0.6
end
write res_tb_linearity.raw
set appendwrite

* Plotting
plot dc1.i(Vmeas) dc2.i(Vmeas) dc3.i(Vmeas) dc4.i(Vmeas) dc5.i(Vmeas)
*plot dc1.v(vinv) dc2.v(vinv) dc3.v(vinv) dc4.v(vinv) dc5.v(vinv)
*plot dc1.v(vc_p) dc2.v(vc_p) dc3.v(vc_p) dc4.v(vc_p) dc5.v(vc_p)
*plot dc1.v(vd) dc2.v(vd) dc3.v(vd) dc4.v(vd) dc5.v(vd)
*plot dc1.v(vb) dc2.v(vb) dc3.v(vb) dc4.v(vb) dc5.v(vb)


* Write Data
unset appendwrite
set wr_vecnames
set wr_singlescale
wrdata ../plot_simulations/data/res_tb_linearity.txt v(vc_p) dc1.v(vsweep)/(dc1.i(Vmeas)) dc2.v(vsweep)/(dc2.i(Vmeas)) dc3.v(vsweep)/(dc3.i(Vmeas)) dc4.v(vsweep)/(dc4.i(Vmeas)) dc5.v(vsweep)/(dc5.i(Vmeas))



*quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  transmission_gate.sym # of pins=4
** sym_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/transmission_gate.sym
** sch_path: /home/noah/Documents/freizeit/heichips/heichips26-voltage-controlled-resistor/macros/heichips26_vcr/macros/switched_capacitor/schematic/xschem/transmission_gate.sch
.subckt transmission_gate vctrl vin vout vinv
*.iopin vin
*.iopin vout
*.ipin vctrl
*.ipin nvctrl
XM3 vout vctrl vin VSS sg13_hv_nmos w={tg_ngate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
XM4 vout nvctrl vin VDD sg13_hv_pmos w={tg_pgate_w*tg_ng} l={tg_ch_len} ng={tg_ng} m=1 mm_ok=1
**** begin user architecture code


.param tg_ch_len=1u
.param tg_ngate_w=1u
.param tg_pgate_w=4.5u
.param tg_ng=40


**** end user architecture code
.ends

.GLOBAL GND
.GLOBAL VDD
.end
